US04075241
2-(3,4-Dichlorophenyl)-3-dimethylamino-1-butanol
To a suspension of 10 g. of lithium aluminum hydride in 300 ml. of diethyl ether, 18.7 g. of ethyl 2-(3,4-dichlorophenyl)-3-dimethylaminobutyrate is added dropwise with stirring. The mixture is refluxed for 40-45 hours and after cooling with an ice bath, 50 ml. of water is added very slowly. After filtering off and thoroughly washing out the inorganic salts, the dried organic filtrate is evaporated and the residue is distilled in vacuo at 115° C/0.4 mm Hg to yield 13 g. of the title compound. The hydrochloride salt melts at 188°-190° C.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | ethyl 2-(3,4-dichlorophenyl)-3-dimethylaminobutyrate | ClC=1C=C(C=CC1Cl)C(C(=O)OCC)C(C)N(C)C | C14H19Cl2NO2
solvent | water | O | H2O
product | 2-(3,4-Dichlorophenyl)-3-dimethylamino-1-butanol | ClC=1C=C(C=CC1Cl)C(CO)C(C)N(C)C | C12H17Cl2NO
